US04460777
A solution of 1.70 g of 1-(5-carboxypentyl)-5-methoxy-3-methyl-2-(3-pyridyl)indole in 85 ml of 48% hydrobromic acid is heated under reflux for 0.5 hour. Purification of the resulting product yields 1-(5-carboxypentyl)-5-hydroxy-3-methyl-2-(3-pyridyl)indole.

reactant | 1-(5-carboxypentyl)-5-methoxy-3-methyl-2-(3-pyridyl)indole | 1.70 g | C(=O)(O)CCCCCN1C(=C(C2=CC(=CC=C12)OC)C)C=1C=NC=CC1 | C21H24N2O3
solvent | hydrobromic acid | 85 ml | Br | BrH
product | 1-(5-carboxypentyl)-5-hydroxy-3-methyl-2-(3-pyridyl)indole | C(=O)(O)CCCCCN1C(=C(C2=CC(=CC=C12)O)C)C=1C=NC=CC1 | C20H22N2O3
